US04243677
A stirred solution of 52.3 g (0.5 mole) of 3-methyl-2-butenyl chloride and 144.1 g (0.55 mole) of triphenylphosphine in 400 ml of toluene was heated at 100° C. for 18 hours. The white solid formed was collected by filtration to give 147.6 g of (3-methyl-2-butenyl)triphenylphosphonium chloride.

reactant | 3-methyl-2-butenyl chloride | 0.5 mole, 52.3 g | CC(=CCCl)C | C5H9Cl
reactant | triphenylphosphine | 0.55 mole, 144.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | (3-methyl-2-butenyl)triphenylphosphonium chloride | 147.6 g | [Cl-].CC(=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H24P.ClH/c1-20(2)18-19-24(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;/h3-18H,19H2,1-2H3;1H/q+1;/p-1
